US07368578B2
A mixture of 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde (0.40 g), piperazine (0.02 g), malononitrile (0.065 g), benzoic acid (0.020 g) and toluene (30 mL) was heated under reflux for 2 hrs with azeotropic removal of water. Ethyl acetate was added to the reaction mixture. The ethyl acetate layer was washed successively with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give ({3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl)methylene) malononitrile as yellow crystals (0.35 g, yield 80%) from a fraction eluted with ethyl acetate-hexane (1:2, v/v). Recrystallization from ethyl acetate-hexane gave yellow prism crystals. melting point: 190-191° C.

reactant | 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde | 0.40 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2C=O)C2=CC=CC=C2)C=C1)OC)C | C27H23N3O6
reactant | piperazine | 0.02 g | N1CCNCC1 | C4H10N2
reactant | malononitrile | 0.065 g | C(CC#N)#N | C3H2N2
reactant | benzoic acid | 0.020 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | ({3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl)methylene) malononitrile | 0.35 g, yield 80% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2C=C(C#N)C#N)C2=CC=CC=C2)C=C1)OC)C | C30H23N5O5
